US04022833
Condensation of 3-methyl-1-butene oxide and hexamethylenediamine affords N,N'-(1,6-hexylene)-bis[2-hydroxy-3-methylbutylamine] (I: R= (CH3)2CH, R' = H, X= (CH2)6, Z= H).

reactant | 3-methyl-1-butene oxide | CC(C1CO1)C | C5H10O
reactant | hexamethylenediamine | NCCCCCCN | C6H16N2
product | N,N'-(1,6-hexylene)-bis[2-hydroxy-3-methylbutylamine] | C(CCCCCNCC(C(C)C)O)NCC(C(C)C)O | C16H36N2O2
